US04760057
1-Chloromethoxycarbonyl-2(4-thiazolyl)benzimidazole
To a suspension of 15.0 g of thiabendazole in 300 ml of chloroform, 6 g of pyridine was added and the suspension cooled in an ice bath. Chloromethyl chloroformate (10.6 g) was added to the reaction mixture dropwise during 10 minutes with stirring. A clear solution was formed which was kept stirred at room temperature for 16 hours. After washing the chloroform solution with water, it was dried over Na2SO4 and evaporated to a light yellow solid weighing 20.4 g. It was crystallized from EtOAc-CHCl3. Obtained in two crops were 15.07 g of compound, m.p. 143°-144° NMR (CDCl3) δ5.9 (2H, s, OCH2Cl), 7.2-8.2 (5H, m, aromatic), 8.93 (1H, d, J=3 Hz, aromatic). IR (KBr) ν3095, 1780, 1460, 1374, 1340, 1194, 1140, 1078 cm-1.

reactant | thiabendazole | 15.0 g | C=1C=CC2=C(C1)NC(=N2)C3=CSC=N3 | C10H7N3S
reactant | pyridine | 6 g | N1=CC=CC=C1 | C5H5N
reactant | Chloromethyl chloroformate | 10.6 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | KBr | [K+].[Br-]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloromethoxycarbonyl-2(4-thiazolyl)benzimidazole | ClCOC(=O)N1C(=NC2=C1C=CC=C2)C=2N=CSC2 | C12H8ClN3O2S
